US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-5-phenylthiopentan-1-one
To a solution of 0.250 g (0.793 mmol) of 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-5-phenylthiopentan-1-one in 20 ml of acetic acid, 0.107 ml (1.19 mmol) of 50% aqueous dimethylamine and 0.097 ml (1.19 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 45 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate, and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1) to yield the desired product.

reactant | 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-5-phenylthiopentan-1-one | 0.793 mmol, 0.250 g | O1C=CC=2CN(CCC21)C(CCCCSC2=CC=CC=C2)=O | C18H21NO2S
reactant | dimethylamine | 1.19 mmol, 0.107 ml | CNC | C2H7N
reactant | formaldehyde | 1.19 mmol, 0.097 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-5-phenylthiopentan-1-one | CN(C)CC1=CC=2CN(CCC2O1)C(CCCCSC1=CC=CC=C1)=O | C21H28N2O2S
